US05045105
19.4 g of n-butyl 2,3-dihydroxyisobutyrate are added to 18.6 g of 2-chloro-5-nitrobenzaldehyde and 0.5 g of p-toluenesulfonic acid in 250 ml of toluene, and the mixture is refluxed for 5 hours under a water separator. After the mixture has been cooled, the solvent is removed and the residue is dried under greatly reduced pressure. 35 g of 3-(5-methyl-5-n-butoxycarbonyl-1,3-dioxolan-2-yl)-4-chloronitrobenzene (oil) are obtained.

reactant | n-butyl 2,3-dihydroxyisobutyrate | 19.4 g | OC(C(=O)OCCCC)(CO)C | C8H16O4
reactant | 2-chloro-5-nitrobenzaldehyde | 18.6 g | ClC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO3
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 3-(5-methyl-5-n-butoxycarbonyl-1,3-dioxolan-2-yl)-4-chloronitrobenzene | 35 g | CC1(COC(O1)C=1C=C(C=CC1Cl)[N+](=O)[O-])C(=O)OCCCC | C15H18ClNO6
